US09107916B2
B. 2-[5-[[4-fluoro-2-(1-phenylethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-fluoro-2-(1-phenylethoxy)phenyl]methanol according to the procedure for the preparation of Example 39, part C. [M+H] Calc'd for C24H19FN4O2, 415. Found, 415.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-fluoro-2-(1-phenylethoxy)phenyl]methanol | FC1=CC(=C(C=C1)CO)OC(C)C1=CC=CC=C1 | C15H15FO2
product | 2-[5-[[4-fluoro-2-(1-phenylethoxy)phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)OC(C)C1=CC=CC=C1 | C24H19FN4O2
